US07994196B2
Ethyl 1H-indazol-3-ylcarbamate (1.2 g) and the compound (1.46 g) of Starting Material Synthetic Example 106 were dissolved in dimethylformamide (10 ml), DBU (2.3 ml) was added thereto, and the mixture was stirred with heating at 120° C. for 2 hr. After completion of the reaction, the reaction mixture was diluted with methanol (3 ml) and 1N hydrochloric acid and water were added to the mixture. The precipitated solid was collected by filtration and vacuum dried to give 4-(2,3-dimethylphenyl)-4-hydroxy-1-piperidinecarboxylic acid (1H-indazol-3-yl)amide (1.02 g, yield 47%).

reactant | Ethyl 1H-indazol-3-ylcarbamate | 1.2 g | N1N=C(C2=CC=CC=C12)NC(OCC)=O | C10H11N3O2
reactant | DBU | 2.3 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methanol | 3 ml | CO | CH4O
solvent | hydrochloric acid | 1N | Cl | ClH
product | 4-(2,3-dimethylphenyl)-4-hydroxy-1-piperidinecarboxylic acid (1H-indazol-3-yl)amide | 1.02 g, yield 47% | N1N=C(C2=CC=CC=C12)NC(=O)N1CCC(CC1)(O)C1=C(C(=CC=C1)C)C | C21H24N4O2
